US04155904
Reflux 1.8 g. (0.005 moles) of 2-(2-bromo-N-methylacetamido)-5-chlorobenzophenone, 2.8 g. (0.020 moles) of hexamethylenetetramine and 1.96 g. (0.020 moles) of ammonium bromide together for 2 hours in 14 ml. of 85% (v/v) aqueous isopropyl alcohol. Pour the reaction mixture into water and extract the product with benzene. Wash the benzene solution with water, dry over anhydrous sodium sulfate, filter and evaporate to dryness. After recrystallization, 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one is obtained. The material gives a single spot by thin layer chromatography, and after drying under vacuum at 110° C., shows no depression on mixed melting point with an authentic sample (M.P. 129.5°-130.5° C.).

reactant | 2-(2-bromo-N-methylacetamido)-5-chlorobenzophenone | 0.005 moles | BrCC(=O)N(C)C1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C16H13BrClNO2
reactant | hexamethylenetetramine | 0.020 moles | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ammonium bromide | 0.020 moles | [Br-].[NH4+]
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H13ClN2O
